US04814344
1-(5-Methoxy-1-methyl-1H-indol-3-yl)-1-ethanone
Phosphoryl chloride (1.05 ml) was added dropwise to ice-cooled dimethylacetamide (10 ml) and the solution was stirred, in ice, for 5 min. A solution of 5-methoxy-1-methyl-1H-indole (1.4 g) in dimethylacetamide (5 ml) was added dropwise, and the resulting solution was stirred at 85° for 2 h, then cooled, and partitioned between sodium carbonate (2N; 100 ml) and ethyl acetate (2×100 ml). The combined organic extracts were washed with water (2×100 ml), dried and evaporated in vacuo. The residue was purified by FCC eluting with ethyl acetate to give a solid which was crystallised from a mixture of ethyl acetate and hexane to give the title compound (0.6 g), m.p. 167°-168°.

reactant | Phosphoryl chloride | 1.05 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methoxy-1-methyl-1H-indole | 1.4 g | COC=1C=C2C=CN(C2=CC1)C | C10H11NO
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1-(5-Methoxy-1-methyl-1H-indol-3-yl)-1-ethanone | 0.6 g | COC=1C=C2C(=CN(C2=CC1)C)C(C)=O | C12H13NO2
